US06060612
Preparation of N,N'-bis(3-hydroxypropyl)-N-palmitoyl-N'-oleoyl-1,3-diamino-2-hydroxypropane
Into other 500 ml rounded-flask, 4.0 g of magnesium oxide and 80 g of distilled water were placed. While stirring resultant mixture, 10.4 g of N,N'-bis(3-hydroxypropyl)-2-hydroxy-1,3-propanediamine was added, and then was added 250 ml of 1,4-dioxane. 13.4 g of palmitoyl chloride was added portionwise to the resulting mixture over 1 hour under violent stirring at a room temperature. After stirring for 2 hours at 10° C., 14.7 g of oleoyl chloride was gradually added dropwise over 1 hour. After stirring again for 2 hours, the mixture was filtered, and then the filtrate was mixed with 200 ml of chloroform and washed twice with 200 ml of distilled water. The organic phase was cooled to produce solid material, which was recovered by filtration. The solid material was dried and recrystallized from acetone to give 26.5 g of the title compound as white powder, which was identified by IR and NMR. The results are shown in Table 4.

reactant | magnesium oxide | 4.0 g | [O-2].[Mg+2]
reactant | N,N'-bis(3-hydroxypropyl)-2-hydroxy-1,3-propanediamine | 10.4 g | OCCCNCC(CNCCCO)O | C9H22N2O3
reactant | palmitoyl chloride | 13.4 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | oleoyl chloride | 14.7 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
solvent | 1,4-dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 g | O | H2O
product | N,N'-bis(3-hydroxypropyl)-N-palmitoyl-N'-oleoyl-1,3-diamino-2-hydroxypropane | 26.5 g | OCCCN(CC(CN(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCO)O)C(CCCCCCCCCCCCCCC)=O | C43H84N2O5
